US06110933
To a solution of (R)-3-hydroxyhexadecanamide (100 mg) and pyridine (210 μl) in dichloromethane (10 ml) was added methanesulfonyl chloride (144 μl). This mixture was stirred at room temperature overnight, and the resulting precipitate was filtered off. The filtrate was concentrated, and dissolved in ethyl acetate (20 ml). This solution was washed with 1N-hydrochloric acid (20 ml×3), saturated sodium carbonate (20 ml×2), and brine (20 ml). After drying over MgSO4 and concentration, the residue was chromatographed on a silica gel, eluting with a mixture of dichloromethane and methanol (50:1) to give (R)-3-methanesulfonyloxyhexadecanamide (40 mg).

reactant | (R)-3-hydroxyhexadecanamide | 100 mg | O[C@@H](CC(=O)N)CCCCCCCCCCCCC | C16H33NO2
reactant | pyridine | 210 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 144 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-3-methanesulfonyloxyhexadecanamide | 40 mg | CS(=O)(=O)O[C@@H](CC(=O)N)CCCCCCCCCCCCC | C17H35NO4S
